US07947689B2
4-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, 4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine | CC1=NCCC2=C1C=CS2 | C8H9NS
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-Methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | Yield: 22% | CC1NCCC2=C1C=CS2 | C8H11NS
